US03956500
A quantity of 3.2 grams of crude 2-oximino-3,3-dimethyl-1,4-oxathiane was caused to react with 4 ml of methyl isocyanate in 75 ml of ether containing 5 drops of dibutyltin diacetate at room temperature for twenty hours. The excess methyl isocyanate and solvent were evaporated, and the residue taken up in ethyl acetate. After rinsing this solution with 100 ml of saturated brine and back-extraction with 100 ml of ethyl acetate, the combined organic solutions were dried over magnesium sulfate, filtered, and the solvent evaporated. The resulting thick oil was triturated with about 30 ml of a 3:1 isopropyl ether/ethyl acetate mixture at room temperature. Filtration afforded 0.7 g of pure 2-(methylcarbamoyloximino)-3,3-dimethyl-1,4-oxathiane, mp 67.0°-68.0°; structure confirmed by spectral analysis.

reactant | 2-oximino-3,3-dimethyl-1,4-oxathiane | 3.2 grams | N(O)=C1OCCSC1(C)C | C6H11NO2S
reactant | methyl isocyanate | 4 ml | CN=C=O | C2H3NO
reactant | dibutyltin diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
catalyst | ether | 75 ml | CCOCC | C4H10O
product | 2-(methylcarbamoyloximino)-3,3-dimethyl-1,4-oxathiane | 0.7 g | CNC(=O)ON=C1OCCSC1(C)C | C8H14N2O3S
